US09340556B2
Under N2, 1-ethyl-5,6-dimethoxy-1H-benzo[d][1,3]oxazine-2,4-dione (12 g, 43.5 mmol) in N,N-Dimethylformamide (DMF) (250 mL) was added to a solution of (Z)-3-ethoxy-3-oxoprop-1-en-1-olate, Sodium salt (18.01 g, 130 mmol) in N,N-Dimethylformamide (DMF) (150 mL) with stirring. The resulting solution was stirred at 110° C. for 3 h. After cooling down, the mixture was concentrated in vacuo and the orange residue was taken up in water. The aqueous solution was washed with ethyl ether (3×), acidified to pH˜2 with 6 N HCl, and extracted with DCM (4×). The organic extracts were dried over Na2SO4, filtered and concentrated. The residue was purified by normal phase silica gel chromatography (CombiFlash), eluting with MeOH/DCM (0-15%) to afford ethyl 1-ethyl-5,6-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (4.5 g, 14.74 mmol, 33.9% yield) as a brown oil that turned into a brown solid after overnight. LCMS: (M+H)+: 306.4.

reactant | 1-ethyl-5,6-dimethoxy-1H-benzo[d][1,3]oxazine-2,4-dione | 43.5 mmol, 12 g | C(C)N1C(OC(C2=C1C=CC(=C2OC)OC)=O)=O | C12H13NO5
reactant | (Z)-3-ethoxy-3-oxoprop-1-en-1-olate | C(C)OC(\C=C/[O-])=O
reactant | Sodium | 130 mmol, 18.01 g | [Na] | Na
solvent | N,N-Dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | N,N-Dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | ethyl 1-ethyl-5,6-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 14.74 mmol, 4.5 g, 33.9% yield | C(C)N1C=C(C(C2=C(C(=CC=C12)OC)OC)=O)C(=O)OCC | C16H19NO5
